US08044173B2
(3S,5R)-4-N-Acetyl-3-methyl-5-phenyl-3,4,5,6,-tetrahydro-2H-1,4-oxazin-2-one
To a vigorously stirred mixture of (3S,5R)-3-methyl-5-phenyl-3,4,5,6-tetrahydro-2H-1,4-oxazin-2-one (300 mg, 1.56 mmol), Na2CO3 (500 mg, 4.68 mmol, 3.0 equiv.) in anhydrous dichloromethane (30 mL) was added acetyl chloride (0.17 mL, 2.34 mmol, 1.5 equiv.) dropwise over 1 min. The resulting solution was stirred for 15 minutes under an atmosphere of nitrogen. The reaction was quenched by the addition of saturated Na2CO3 (20 mL), the aqueous phase was extracted with diethyl diethyl ether (3×10 mL) and the combined extracts were dried over MgSO4. The solvents were removed in vacuo and the crude material was purified by flash column chromatography on silica, eluting with diethyl ether and dichloromethane (9:1) to furnish the title compound as fine colourless needles (270 mg, 74%); m.p. 82-85° C.; V(max) (KBr) 2943 (C—H), 1733 (C═O, lactone), 1647 (C═O, amide) cm″1; δH (250 Mhz, DMSO-d) 7.42-7.36 (5H, m, Ph), 5.49 (0.4H, PhCH×0.4) 5.33 (0.6H, PhCH×0.6), 5.08-5.05 (1H, m, CH3CH), 4.65 (2H, d, J 6.10 Hz CH2); 2.13 (1H, s, CH3CON×1), 1.86 (2H, s, CH3CON×2), 1.39 (3H, d, J 12.40 Hz CH3CH): δc (62.5 MHz, DMSO—O 170.5, 169.8, 137.8, 129.4, 128.4, 127.1, 68.6, 55.5, 50.7, 49.7, 22.7, 19.0; m1τ (CL, NH3), 234 (MH+, 8%), 233 (M, 13%), 220 (4%), and 219 (100%); HRMS for C13H16NO3 requires 234.1126. found 234.1130; [α]D20 −29.8 (c 1.16 CHCl3).

reactant | (3S,5R)-3-methyl-5-phenyl-3,4,5,6-tetrahydro-2H-1,4-oxazin-2-one | 1.56 mmol, 300 mg | C[C@H]1C(OC[C@H](N1)C1=CC=CC=C1)=O | C11H13NO2
reactant | Na2CO3 | 4.68 mmol, 500 mg, 3.0 equiv. | C(=O)([O-])[O-].[Na+].[Na+]
reactant | acetyl chloride | 2.34 mmol, 0.17 mL, 1.5 equiv. | C(C)(=O)Cl | C2H3ClO
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | (3S,5R)-4-N-Acetyl-3-methyl-5-phenyl-3,4,5,6,-tetrahydro-2H-1,4-oxazin-2-one | 270 mg, 74% | C(C)(=O)N1[C@H](C(OC[C@H]1C1=CC=CC=C1)=O)C | C13H15NO3
